US06979695B2
(4E)-N-Methyl-5-(6-methoxy-3-pyridyl)-4-penten-2-amine
Under a nitrogen atmosphere, a cold (0-5° C.), stirring solution of (4E)-N-methyl-N-(tert-butoxycarbonyl)-5-(6-methoxy-3-pyridyl)-4-penten-2-amine (2.90 g, 9.45 mmol) in dichloromethane (20 mL) was treated drop-wise over 15 min with trifluoroacetic acid (15 mL). After stirring for 30 min, the solution was concentrated to a yellow-orange oil. The residue was diluted with saturated aqueous NaCl solution (15 mL), cooled to 0-5° C., and basified with 10% aqueous NaOH solution (22 mL). The mixture was extracted with CHCl3 (5×25 mL). The combined CHCl3 extracts were dried (Na2SO4), filtered, and concentrated under vacuum to give a light-yellow oil (1.88 g). The crude product was purified by column chromatography on silica gel (70-230 mesh) (150 g), eluting with a CH3OH—NH4OH step-wise gradient (100:1→15:1 in increments of 25:1). Fractions containing the product (Rf 0.28 in CHCl3—CH3OH-Et3N (50:1:1)) were kept separate from those containing an impurity (Rf 0.35) and were combined and concentrated to give 0.76 g of a light-yellow oil. Impure fractions were combined and concentrated to give 1.20 g of light-yellow oil. The latter material was re-chromatographed on a new silica gel column (75 g) using the same CH3OH—NH4OH gradient elution protocol. Impure fractions were combined and concentrated to give 1.08 g of light-yellow oil. The latter material was re-chromatographed (6 times) on a new silica gel columns (45 g and 25 g) using CHCl3—CH3OH-Et3N step-wise gradient (16:1→1:1 in CHCl3—CH3OH, with each gradient step containing 1% Et3N). All fractions containing the product were combined and concentrated under vacuum to give 1.368 g (70.2%) of a light-yellow oil.

reactant | (4E)-N-methyl-N-(tert-butoxycarbonyl)-5-(6-methoxy-3-pyridyl)-4-penten-2-amine | 9.45 mmol, 2.90 g | CN(C(C)C\C=C\C=1C=NC(=CC1)OC)C(=O)OC(C)(C)C | C17H26N2O3
reactant | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (4E)-N-Methyl-5-(6-methoxy-3-pyridyl)-4-penten-2-amine | 1.88 g | CNC(C)C\C=C\C=1C=NC(=CC1)OC | C12H18N2O
